US03931218
A solution of 95 grams of p-toluenesulfonyl chloride in 175 ml. of pyridine was added dropwise to a stirred solution of 135 grams of N-ethyl ethylenediamine in 250 ml. of pyridine cooled in an ice bath. After addition was completed, the mixture was stirred one-half hour at room temperature then heated in a steam bath for one-half hour. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate and extracted with sodium carbonate solution and water. After drying the ethyl acetate portion over magnesium sulfate, the solvent was removed in vacuo to obtain N-[2-(ethylamino)ethyl]-p-toluenesulfonamide as a viscous oil which crystallized on standing. Analytical sample prepared from ether-hexane melted at 50°-53°C.

reactant | p-toluenesulfonyl chloride | 95 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-ethyl ethylenediamine | 135 grams | C(C)NCCN | C4H12N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[2-(ethylamino)ethyl]-p-toluenesulfonamide | C(C)NCCNS(=O)(=O)C1=CC=C(C=C1)C | C11H18N2O2S
